US08420647B2
4-(2,5-Dichloro-phenoxy)-pyrimidine-5-carboxylic acid (2-methoxy-pyridin-3-yl)-methyl-amide
To a solution of 50 mg (0.17 mmol) (4-(2,5-dichloro-phenoxy)-pyrimidine-5-carboxylic acid (Example 76, intermediate a) in 1.5 mL dichloromethane were added 0.05 mL (0.34 mmol) triethylamine and 49 mg (0.19 mmol) 2-chloro-1-methylpyridinium iodide. After stirring at room temperature for 20 minutes, 24 mg (0.19 mmol) 2-methoxypyridin-3-amine (commercially available, CAS RN 20265-38-7) were added. After 2 hours, the reaction mixture was poured on water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered and evaporated. The crude product was dissolved in 1 mL N,N-dimethylformamide and 14 mg (0.35 mmol) sodium hydride (60% suspension in mineral oil) followed by 0.02 mL (0.35 mmol) of methyliodide were added. The reaction was stirred at 50° C. for 2 hours. The suspension was filtered using a syringe micro filter and purified on a preparative HPLC system (Phenomenex Gemini column) using a gradient of acetonitrile:water (containing 0.05% formic acid) (10:90 to 98:2) to give 28 mg (39%) of the desired compound as a light brown solid. MS (ESI): m/z=405.0 [M+H]+.

reactant | 4-(2,5-dichloro-phenoxy)-pyrimidine-5-carboxylic acid | ClC1=C(OC2=NC=NC=C2C(=O)O)C=C(C=C1)Cl | C11H6Cl2N2O3
reactant | triethylamine | 0.34 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.19 mmol, 49 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 2-methoxypyridin-3-amine | 0.19 mmol, 24 mg | COC1=NC=CC=C1N | C6H8N2O
reactant | sodium hydride | 0.35 mmol, 14 mg | [H-].[Na+]
reactant | methyliodide | 0.35 mmol, 0.02 mL | CI | CH3I
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 4-(2,5-Dichloro-phenoxy)-pyrimidine-5-carboxylic acid (2-methoxy-pyridin-3-yl)-methyl-amide | 28 mg, 39% | COC1=NC=CC=C1N(C(=O)C=1C(=NC=NC1)OC1=C(C=CC(=C1)Cl)Cl)C | C18H14Cl2N4O3
